US07714168B2
To 100 ml of DMF were added 10 g of 4-hydroxy-3-methoxybenzoic acid, 15.7 g of propargyl bromide and 18 g of potassium carbonate, and the mixture obtained was stirred at room temperature for 8 hours and at 80° C. for 2 hours. Then, ethyl acetate was added to the reaction mixture and the mixture was filtered through Celite. Water and dilute hydrochloric acid were added to the filtrate in order and it was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The crystals obtained were washed with a mix solvent of hexane and MTBE to obtain 13.2 g of 2-propynyl 4-(2-propynyloxy)-3-methoxybenzoate represented by the formula:

reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | 4-hydroxy-3-methoxybenzoic acid | 10 g | OC1=C(C=C(C(=O)O)C=C1)OC | C8H8O4
reactant | propargyl bromide | 15.7 g | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-propynyl 4-(2-propynyloxy)-3-methoxybenzoate | 13.2 g | C(C#C)OC1=C(C=C(C(=O)OCC#C)C=C1)OC | C14H12O4
